US05962469
1-Methoxy-3-(1-nitrocyclohexyl)-1,3-dihydroisobenzofuran (a)
Sodium metal (0.46 g, 0.02 g-atom) is added to MeOH (35 mL) portionwise at rt. When a homogeneous solution is obtained, nitrocyclohexane (12.92 g, 100 mmol) is added, followed by o-phthalaldehyde (8.38 g, 60.0 mmol). The resulting solution is stirred at rt overnight. The solution is brought to pH 2 by adding 1 N H2SO4 and stirred at rt for 60 min. White solids precipitate. The mixture is filtered, and the filtrate, from which an oil separates, is made basic by adding 10% NaOH solution. The solution is concentrated in vacuo to remove the MeOH, and the resulting aqueous solution is extracted twice with Et2O. The combined organic layers are washed once with brine, dried (MgSO4), filtered, and concentrated. After final drying on a vacuum pump, a yellow oil is obtained (17.29 g, 100%). The following data were obtained on a ca. 1:1 mixture of the cis and trans diastereoisomers. 1H NMR (CDCl3) 7.45-7.35 (m, 3), 7.20-7.10 (m, 1), 6.26 and 5.55 (isomer I, 2 d, 1 total, J=2.7, and 2.3 Hz, respectively), 5.98 and 5.38 (isomer II, 2 s, 1 total), 3.59 and 3.36 (isomers I and II, respectively, 2s, 3 total), 2.59 (m, 2), 2.22 (m, 2), 1.95-1.10 (m, 6).

reactant | Sodium | 0.46 g | [Na] | Na
reactant | nitrocyclohexane | 100 mmol, 12.92 g | [N+](=O)([O-])C1CCCCC1 | C6H11NO2
reactant | o-phthalaldehyde | 60.0 mmol, 8.38 g | C1=CC=C(C(=C1)C=O)C=O | C8H6O2
reactant | H2SO4 | 1 N | OS(=O)(=O)O | H2O4S
reactant | MeOH | 35 mL | CO | CH4O
product | 1-Methoxy-3-(1-nitrocyclohexyl)-1,3-dihydroisobenzofuran | COC1OC(C2=CC=CC=C12)C1(CCCCC1)[N+](=O)[O-] | C15H19NO4
